US08604061B2
A solution of (S)-2-amino-3-methyl-4-phenyl-but-3-en-1-ol (115 mg) in EtOH (5 ml) was hydrogenated at normal pressure (balloon) overnight in the presence of 10% Pd/C (10 mg). The reaction mixture was filtered and concentrated. The crude product was purified by column chromatography (silica gel; gradient: CH2Cl2->CH2Cl2/MeOH 9:1) to give (S)-2-amino-3-methyl-4-phenyl-butan-1-ol (57 mg, 49%) as light yellow oil. MS (ISP): 180.3 ([M+H]+))

reactant | (S)-2-amino-3-methyl-4-phenyl-but-3-en-1-ol | 115 mg | N[C@H](CO)C(=CC1=CC=CC=C1)C | C11H15NO
solvent | EtOH | 5 ml | CCO | C2H6O
catalyst | Pd/C | 10 mg | [Pd] | Pd
product | (S)-2-amino-3-methyl-4-phenyl-butan-1-ol | 57 mg, 49% | N[C@H](CO)C(CC1=CC=CC=C1)C | C11H17NO
